US05514643
Synthesis of 2-benzylamino-4-methly-thiazole-5-carboxylic acid (cyano-phenyl-methyl)-amide (21)
1.2g of 2-benzylamino-4-methyl-thiazole-5-carboxylic acid was converted into 2-benzylamino-4-methyl-thiazole-5-carboxylic acid chloride using 1.1g of phosphorus pentachloride according to the same procedure as EXAMPLE 1. Then 0.89g of amino-phenylacetonitrile hydrochloride and 2.3ml of triethylamine were added thereto and the reaction mixture was treated according to the same procedure as EXAMPLE 1 to obtain 0.68g (Yield 39%) of the title compound.

reactant | 2-benzylamino-4-methyl-thiazole-5-carboxylic acid | 1.2g | C(C1=CC=CC=C1)NC=1SC(=C(N1)C)C(=O)O | C12H12N2O2S
reactant | 2-benzylamino-4-methyl-thiazole-5-carboxylic acid chloride | 1.1g | C(C1=CC=CC=C1)NC=1SC(=C(N1)C)C(=O)Cl | C12H11ClN2OS
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | amino-phenylacetonitrile hydrochloride | 0.89g | Cl.NC(C#N)C1=CC=CC=C1
solvent | triethylamine | 2.3ml | C(C)N(CC)CC | C6H15N
product | 2-benzylamino-4-methly-thiazole-5-carboxylic acid (cyano-phenyl-methyl)-amide | 0.68g, Yield 39% | C(#N)C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NCC1=CC=CC=C1)C | C20H18N4OS
